US06515011B2
1-((2S)-2-Hydroxy-2-phenylpropanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide
1-((2S)-2-Hydroxy-2-phenyl-propanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide from the previous step (0.125 g, 0.24 mmol) was dissolved in EtOAc (10 mL) and cooled with stirring to 0° C. Into this solution was bubbled in HCl gas for 5 min. The resulting solution was stirred at 0° C. for 30 min, then concentrated in vacuo. The solid which had formed was triturated with Et2O and collected by filtration and washed with several portions of ether. The hydrochloride salt of the title compound was obtained as a white solid after drying overnight under high vacuum (HPLC RT=2.66 min, method A; LC-MS m/z=416.1; 1H NMR, 400 MHz, CD3OD, 7.54 ppm (s, 1H), 7.42 ppm (m, 4H), 7.34 ppm (m, 2H), 7.26 ppm (m, 1H), 4.54 ppm (d, 1H), 4.4 ppm (d, 1H), 4.3 ppm (m, 2H), 3.6 ppm (m, 1H), 3.24 ppm (m, 1H), 2.08 ppm (m, 1H), 1.8 ppm (m, 1H), 1.7 ppm (m, 1H), 1.6 ppm (s, 3H), 1.5 ppm (m, 1H)).

reactant | 1-((2S)-2-Hydroxy-2-phenyl-propanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | O[C@@](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(C)C1=CC=CC=C1 | C27H34ClN3O5
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 1-((2S)-2-Hydroxy-2-phenylpropanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | O[C@@](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1)(C)C1=CC=CC=C1 | C22H26ClN3O3
